US05216156
N,N'-Bis(1-octyloxy-2,2,6,6-tetramethylpiperidin-4-yl)-N,N'-bis{2-[(2-hydroxyethyl)amino]-4-[N-(1-octyloxy-2,2,6,6-tetramethylpiperidin-4-yl)butylamino]-1,3,5-triazin-6-yl}-1,6-hexanediamine
The title compound is prepared from the reaction of N,N'-bis(1-octyloxy-2,2,6,6-tetramethylpiperidin-4-yl)-N,N'-bis{2-chloro-4-[N-(1-octyloxy-2,2,6,6-tetramethylpiperidin-4-yl)butylamino]-1,3,5-triazin-6-yl}-1,6-hexanediamine and ethanolamine.

reactant | N,N'-bis(1-octyloxy-2,2,6,6-tetramethylpiperidin-4-yl)-N,N'-bis{2-chloro-4-[N-(1-octyloxy-2,2,6,6-tetramethylpiperidin-4-yl)butylamino]-1,3,5-triazin-6-yl}-1,6-hexanediamine | C(CCCCCCC)ON1C(CC(CC1(C)C)N(CCCCCCN(C1=NC(=NC(=N1)Cl)NCCCCC1CC(N(C(C1)(C)C)OCCCCCCCC)(C)C)C1CC(N(C(C1)(C)C)OCCCCCCCC)(C)C)C1=NC(=NC(=N1)Cl)NCCCCC1CC(N(C(C1)(C)C)OCCCCCCCC)(C)C)(C)C | C88H166Cl2N14O4
reactant | ethanolamine | C(O)CN | C2H7NO
product | N,N'-Bis(1-octyloxy-2,2,6,6-tetramethylpiperidin-4-yl)-N,N'-bis{2-[(2-hydroxyethyl)amino]-4-[N-(1-octyloxy-2,2,6,6-tetramethylpiperidin-4-yl)butylamino]-1,3,5-triazin-6-yl}-1,6-hexanediamine | C(CCCCCCC)ON1C(CC(CC1(C)C)N(CCCCCCN(C1=NC(=NC(=N1)NCCO)NCCCCC1CC(N(C(C1)(C)C)OCCCCCCCC)(C)C)C1CC(N(C(C1)(C)C)OCCCCCCCC)(C)C)C1=NC(=NC(=N1)NCCO)NCCCCC1CC(N(C(C1)(C)C)OCCCCCCCC)(C)C)(C)C | C92H178N16O6
